US04582919
185 mg of (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol were dissolved in 5 ml of methanol and the solution was subsequently diluted with 5 ml of water. Thereupon, Raney-nickel was added and the mixture was heated at reflux for 2 hours under hydrogen. After completion of the hydrogen uptake, the mixture was filtered, washed with methanol and methylene chloride and concentrated on a rotary evaporator. Residual water was distilled off azeotropically by the addition of methylene chloride. The oil obtained was recrystallized from hexane/ether and there were obtained 161 mg of 55% (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol (48% yield; analysis of the acetonide by gas chromatography). Data of the pure substance: m.p. 86°-87° C. [α]D20 +2.55° (c=5.3% in CHCl3).

reactant | (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol | 185 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C[C@@H]1[C@](CO)(C)O1 | C16H24O4
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
catalyst | Raney-nickel | [Ni] | Ni
product | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol | 161 mg, 55% | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@@](CO)(O)C | C16H26O4
